US07262185B2
To 5.0M nitric: acid (134 ml) was added sodium nitrite (411 mg), and 5-hydroxymethyl-2-mercapto-1-(2-propyn-1-yl)imidazole (25.0 g) was added by portions to the mixture. After the mixture was allowed to be at room temperature and stirred for 1 hour, water (60 ml) was added to the mixture. The mixture was neutralized with potassium carbonate at 0° C. and the solvent was distilled off under reduced pressure. Ethanol was added to the mixture, the insolubles were filtered off, and the solvent was distilled off under reduced pressure. To the obtained residue was added methanol-ethyl acetate, and basic silica gel was added to the mixture. This mixture was purified by basic silica gel column chromatography (methanol:ethyl acetate=1:8), and the obtained solid was recrystalized from hexane-ethyl acetate, to give 5-hydroxymethyl-1-(2-propyn-1-yl)imidazole (8.46 g) as yellow crystals.

reactant | sodium nitrite | 411 mg | N(=O)[O-].[Na+]
reactant | 5-hydroxymethyl-2-mercapto-1-(2-propyn-1-yl)imidazole | 25.0 g | OCC1=CN=C(N1CC#C)S | C7H8N2OS
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | 60 ml | O | H2O
product | 5-hydroxymethyl-1-(2-propyn-1-yl)imidazole | 8.46 g | OCC1=CN=CN1CC#C | C7H8N2O
